US09029384B2
To a solution of (S)-tert-butyl (1-(5-cyano-4-oxo-3-phenyl-3,4-dihydroquinazolin-2-yl)ethyl)carbamate (105 mg, 0.269 mmol) in THF/H2O (1 mL each) was added Ghaffar's catalyst. The mixture was heated to 80° C. overnight. Purification by flash chromatography (25 g silica, 0-100% EtOAc/DCM) provided (S)-tert-butyl (1-(5-carbamoyl-4-oxo-3-phenyl-3,4-dihydroquinazolin-2-yl)ethyl)carbamate as a white solid. ES/MS 409.1 (M+H+).

reactant | (S)-tert-butyl (1-(5-cyano-4-oxo-3-phenyl-3,4-dihydroquinazolin-2-yl)ethyl)carbamate | 0.269 mmol, 105 mg | C(#N)C1=C2C(N(C(=NC2=CC=C1)[C@H](C)NC(OC(C)(C)C)=O)C1=CC=CC=C1)=O | C22H22N4O3
reactant | THF H2O | 1 mL | C1CCOC1.O
product | (S)-tert-butyl (1-(5-carbamoyl-4-oxo-3-phenyl-3,4-dihydroquinazolin-2-yl)ethyl)carbamate | C(N)(=O)C1=C2C(N(C(=NC2=CC=C1)[C@H](C)NC(OC(C)(C)C)=O)C1=CC=CC=C1)=O | C22H24N4O4
